US08957093B2
(R)-4′-((2,3-dimethyl-5-(2-phenylpropylcarbamoyl)-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Steps 8-9, Example 1, using (R)-2-phenylpropan-1-amine and 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. LC-MS 517 (M+H).

reactant | (R)-2-phenylpropan-1-amine | C1(=CC=CC=C1)[C@H](CN)C | C9H13N
reactant | 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | (R)-4′-((2,3-dimethyl-5-(2-phenylpropylcarbamoyl)-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid | CC=1N(C2=CC=C(C=C2C1C)C(NC[C@H](C)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C34H32N2O3
